US06169086A
1) Preparation of 1-(4-Fluoro-2-nitrophenoxy)-2,3-epoxypropane
A mixture consisting of 31.4 g of 4-fluoro-2-nitrophenol, 100 ml of epichlorohydrin, 9.1 g of sodium hydroxide, 40 ml of water, and 900 ml of ethanol was stirred at 80° C. for 10 hours. The reaction mixture was cooled to room temperature, and any insoluble matter was removed by filtration. The filtrate was concentrated to dryness under reduced pressure. The residue was dissolved in a 1:1 mixed solvent of diethyl ether and hexane, washed with water and then with a saturated sodium chloride aqueous solution, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure. The residue was subjected to silica gel column chromatography using a 3:1 mixture of chloroform and hexane as a developing solvent. The fraction containing the desired compound was concentrated to give 27.9 g of the title compound.

reactant | 4-fluoro-2-nitrophenol | 31.4 g | FC1=CC(=C(C=C1)O)[N+](=O)[O-] | C6H4FNO3
reactant | epichlorohydrin | 100 ml | C(Cl)C1CO1 | C3H5ClO
reactant | sodium hydroxide | 9.1 g | [OH-].[Na+]
reactant | water | 40 ml | O | H2O
solvent | ethanol | 900 ml | C(C)O | C2H6O
product | 1-(4-Fluoro-2-nitrophenoxy)-2,3-epoxypropane | 27.9 g | FC1=CC(=C(OCC2CO2)C=C1)[N+](=O)[O-] | C9H8FNO4
